US05677305
First, a mixture containing 300 mg of 4-(4-oxo-4H-pyridin-1-yl)-5-trifluoromethyl-1,2-phenylenediamine, 301 mg of oxalic acid, and 6 ml of 2N hydrochloric acid was refluxed by heating in an oil bath for 7 hours. The mixture was cooled and precipitated crystals were filtered. Then, 333 mg of the crude crystals thus obtained were recrystallized with a mixture of dimethylformamide and water to give 216 mg of 6-(4-oxo-4H-pyridin-1-yl)-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione.

reactant | 4-(4-oxo-4H-pyridin-1-yl)-5-trifluoromethyl-1,2-phenylenediamine | 300 mg | O=C1C=CN(C=C1)C1=CC(=C(C=C1C(F)(F)F)N)N | C12H10F3N3O
reactant | oxalic acid | 301 mg | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrochloric acid | 2N, 6 ml | Cl | ClH
product | 6-(4-oxo-4H-pyridin-1-yl)-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione | 216 mg | O=C1C=CN(C=C1)C=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C14H8F3N3O3
